US06210783B1
(B-Cyan-4) Synthesis of 4,11-diamino-2-n-octyl-1H-naphth[2,3-f] isoindole-1,3,5,10(2H)-tetrone cyan dye. To 120 grams of 15 percent oleum (fuming sulfuric acid having 15 percent sulfur trioxide), 10.0 grams of 1,4-diamino anthraquinone-2,3-dinitrile were added at 30° C. and the mixture stirred for two hours. This reaction mixture was poured into 1,000 grams of ice water and the precipitates were filtered. The wet precipitates were added to 400 grams of cooled water and dissolved by the addition of sodium hydroxide, followed by adjusting pH to 12.5. The temperature was now raised to 100° C. and maintained for two hours. After that period, 20 grams of 50 percent sulfuric acid were added to the mixture and heating was continued for another one hour. The precipitate of 1,4-diamino anthraquinone-2,3-dicarboxylic acid anhydride thus obtained was collected by filtration, washed with water and dried. 3.2 Grams of 1,4-diamino anthraquinone-2,3-dicarboxylic acid anhydride (0.01 mole), 3.2 grams (0.025 mole) of n-octyl amine, and 50 milliliters of methanol were added to a 100 milliliter round-bottom flask equipped with a condenser and the contents refluxed for a period of 24 hours. The reaction mixture was cooled, filtered and washed twice with methanol (100 milliliters each time). The reaction product was dried in air to obtain 4,11-diamino-2-n-octyl-1H-naphth[2,3-f] isoindole-1,3,5,10(2H)-tetrone cyan dye.

reactant | 1,4-diamino anthraquinone-2,3-dicarboxylic acid anhydride | 0.01 mole | NC1=C2C(=C(C=3C(C4=CC=CC=C4C(C13)=O)=O)N)C(=O)OC2=O | C16H8N2O5
reactant | n-octyl amine | 0.025 mole, 3.2 grams | C(CCCCCCC)N | C8H19N
solvent | methanol | 50 milliliters | CO | CH4O
product | 4,11-diamino-2-n-octyl-1H-naphth[2,3-f] isoindole-1,3,5,10(2H)-tetrone | NC1=C2C(=C(C=3C(N(C(C13)=O)CCCCCCCC)=O)N)C(C1=CC=CC=C1C2=O)=O | C24H25N3O4
